US07855290B2
Benzyl [4-(4-azidopyrimidin-6-yloxy)-2,5-difluorophenyl]carbamate
Benzyl [4-(4-chloropyrimidin-6-yloxy)-2,5-difluorophenyl]carbamate (1.96 g) was dissolved in N,N-dimethylformamide (20 ml). Sodium azide (650 mg) was added thereto, followed by stirring at 60° C. for 2 hr. The reaction mixture was allowed to cool to room temperature, then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=3:1). Fractions containing the target compound were concentrated under reduced pressure and the residue was dried under reduced pressure to provide the titled compound as white crystals (685 mg, 34%).

reactant | Benzyl [4-(4-chloropyrimidin-6-yloxy)-2,5-difluorophenyl]carbamate | 1.96 g | ClC1=NC=NC(=C1)OC1=CC(=C(C=C1F)NC(OCC1=CC=CC=C1)=O)F | C18H12ClF2N3O3
reactant | Sodium azide | 650 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Benzyl [4-(4-azidopyrimidin-6-yloxy)-2,5-difluorophenyl]carbamate | 685 mg, 34% | N(=[N+]=[N-])C1=NC=NC(=C1)OC1=CC(=C(C=C1F)NC(OCC1=CC=CC=C1)=O)F | C18H12F2N6O3
